US05622947
0.12 g of sodium cyanate and 0.22 ml of trifluoro-acetic acid were added to a solution of 0.5 g of 5-(2-amino-ethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine dissolved in 15 ml of dry dimethylformamide. The mixture was stirred at 80° C. for 1 hour. After cooling, the reaction mixture was mixed with slight amounts of a saturated aqueous sodium hydrogen-carbonate solution and hexane, followed by extraction with ethyl acetate. The organic layer was water-washed, then dried over magnesium sulfate and subjected to vacuum distillation to remove the solvent. The resiude was recrystallized from acetone-n-hexane to obtain 0.41 g (76%) of 5-(2-ureidoethoxy)-7-chloro-1-[2-methoxy-4-(2-chloro-benzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine.

reactant | sodium cyanate | 0.12 g | [O-]C#N.[Na+]
reactant | trifluoro-acetic acid | 0.22 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 5-(2-amino-ethoxy)-7-chloro-1-[2-methoxy-4-(2-chlorobenzoylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.5 g | NCCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | C27H27Cl2N3O4
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 5-(2-ureidoethoxy)-7-chloro-1-[2-methoxy-4-(2-chloro-benzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.41 g, 76% | N(C(=O)N)CCOC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)Cl)=O)OC)=O | C28H28Cl2N4O5
